US05591862
A mixture of (E)-5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)styryl]tetrazole (1.0 g), palladium-carbon (5%, 0.5 g) and dioxane (100 ml) was subjected to catalytic hydrogenation at room temperature. The catalyst was filtered off, and the filtrate was concentrated under reduced pressure to give 5-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]ethyl]tetrazole (0.81 g, 81%), which was recrystallized from methanol-chloroform to yield colorless plates, m.p.203°-204° C.

reactant | (E)-5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)styryl]tetrazole | 1.0 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(/C=C/C2=NN=NN2)C=C1 | C20H17N5O2
catalyst | palladium-carbon | 0.5 g | [C].[Pd]
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 5-[2-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]ethyl]tetrazole | 0.81 g, 81% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)CCC1=NN=NN1 | C20H19N5O2
